US07851473B2
4-[4-(2,3-Dichlorophenyl)-1,3-thiazol-2-yl]-N-(3,4-dimethylisoxazol-5-yl)piperazine-1-carboxamide
A mixture of 2,2,2-trichloroethyl (3,4-dimethylisoxazol-5-yl)carbamate (121 mg, 0.420 mmol), 1-[4-(2,3-dichlorophenyl)-1,3-thiazol-2-yl]piperazine (120 mg, 0.382 mmol) and diisopropylethylamine (0.133 ml, 0.764 mmol) in dimethyl sulfoxide (1.2 ml) was stirred at 70° C. for 3 days. Water was poured to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:1), and recrystallized from a mixed solvent of hexane and ethyl acetate to give 27.0 mg (15.6%) of the desired product as a solid. mp 175-176° C.

reactant | 2,2,2-trichloroethyl (3,4-dimethylisoxazol-5-yl)carbamate | 0.420 mmol, 121 mg | CC1=NOC(=C1C)NC(OCC(Cl)(Cl)Cl)=O | C8H9Cl3N2O3
reactant | 1-[4-(2,3-dichlorophenyl)-1,3-thiazol-2-yl]piperazine | 0.382 mmol, 120 mg | ClC1=C(C=CC=C1Cl)C=1N=C(SC1)N1CCNCC1 | C13H13Cl2N3S
reactant | diisopropylethylamine | 0.764 mmol, 0.133 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 1.2 ml | CS(=O)C | C2H6OS
product | 4-[4-(2,3-Dichlorophenyl)-1,3-thiazol-2-yl]-N-(3,4-dimethylisoxazol-5-yl)piperazine-1-carboxamide | 27.0 mg, 15.6% | ClC1=C(C=CC=C1Cl)C=1N=C(SC1)N1CCN(CC1)C(=O)NC1=C(C(=NO1)C)C | C19H19Cl2N5O2S
